US08530491B2
a) 3-(6-fluoroquinolin-4-yloxy)propyl bromide hydrobromide
To a suspension solution of 6-fluoroquinolin-4-ol (3.67 g, 22.5 mmol) (synthesized in overall yield of 32% starting from 4-fluoroaniline and diethyl ethoxymethylenemalonate according to a literature procedure (see Price et al., Organic Syntheses, Coll. Vol. 3, p. 272; Vol. 28, p. 38), triphenylphosphine (6.56 g, 25 mmol), and 3-bromo-1-propanol (2.3 mL, 25 mmol) in dry tetrahydrofuran (30 mL) was added diisopropyl azodicarboxylate (4.9 mL, 25 mmol) at 25° C. over 30 minutes under nitrogen and the reaction mixture was left stirring for one hour. Hydrobromic acid (2.8 mL of 48% aqueous solution, 25 mmol) was added, resulting in precipitation of the titled compound. The product was collected by suction filtration and washed with THF, acetone and ether to give a light yellow crystalline solid (4.17 g, 51%). 1H NMR (400 MHz, DMSO-d6): 2.45 (2H, m), 3.82 (2H, t, J=6.5 Hz), 4.61 (2H, t, J=5.7 Hz), 7.64 (1H, d, J=6.6 Hz), 8.40 (1H, dt, J=8.5, 2.7 Hz), 7.90 (m, 1H), 8.27 (1H, dd, J=9.4, 4.8 Hz), 9.24 (1H, d, J=6.6 Hz).

reactant | 6-fluoroquinolin-4-ol | 22.5 mmol, 3.67 g | FC=1C=C2C(=CC=NC2=CC1)O | C9H6FNO
reactant | 4-fluoroaniline | FC1=CC=C(N)C=C1 | C6H6FN
reactant | diethyl ethoxymethylenemalonate | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | triphenylphosphine | 25 mmol, 6.56 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-bromo-1-propanol | 25 mmol, 2.3 mL | BrCCCO | C3H7BrO
reactant | diisopropyl azodicarboxylate | 25 mmol, 4.9 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | Hydrobromic acid | 25 mmol, 2.8 mL | Br | BrH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 3-(6-fluoroquinolin-4-yloxy)propyl bromide hydrobromide | yield of 32% | Br.FC=1C=C2C(=CC=NC2=CC1)OCCCBr | InChI=1S/C12H11BrFNO.BrH/c13-5-1-7-16-12-4-6-15-11-3-2-9(14)8-10(11)12;/h2-4,6,8H,1,5,7H2;1H
